US07781428B2
ethyl 2-(3-chloro-4-cyanophenyl)-3-(4-fluorophenyl)-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylate
The title compound was prepared from ethyl 6-(4-fluorobenzylidene)-5-oxo-5,6,7,8-tetrahydronaphthalene-2-carboxylate (Preparation 16; 324 mg, 1.0 mmol) and 2-chloro-4-hydrazinylbenzonitrile hydrochloride (Preparation 1; 306 mg, 1.5 mmol) according to Method B (yellow solid, 394 mg, 0.830 mmol, 83% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 0.80 (m, 1H), 1.31 (t, J=7.12 Hz, 3H), 1.79 (m, 1H), 2.95 (m, 2H), 3.97 (ddd, J=13.49, 11.21, 4.83 Hz, 1H), 4.31 (q, J=6.98 Hz, 2H), 5.94 (d, J=11.28 Hz, 1H), 7.15 (m, 6H), 7.66 (d, J=8.86 Hz, 1H), 7.80 (s, 1H), 7.85 (dd, J=8.19, 1.75 Hz, 1H), 8.16 (d, J=8.06 Hz, 1H). ES-MS m/z 474 (M+H).

reactant | ethyl 6-(4-fluorobenzylidene)-5-oxo-5,6,7,8-tetrahydronaphthalene-2-carboxylate | 1.0 mmol, 324 mg | FC1=CC=C(C=C2C(C=3C=CC(=CC3CC2)C(=O)OCC)=O)C=C1 | C20H17FO3
reactant | 2-chloro-4-hydrazinylbenzonitrile hydrochloride | 1.5 mmol, 306 mg | Cl.ClC1=C(C#N)C=CC(=C1)NN
product | ethyl 2-(3-chloro-4-cyanophenyl)-3-(4-fluorophenyl)-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylate | 83% yield | ClC=1C=C(C=CC1C#N)N1N=C2C3=C(CCC2C1C1=CC=C(C=C1)F)C=C(C=C3)C(=O)OCC | C27H21ClFN3O2
